US07045512B2
Step 2: Preparation of 4-[3-(trifluoromethyl)phenoxy]benzenamine
To 1-Nitro-4-[3-(trifluoromethyl)phenoxy]benzene (19 g) in ethyl acetate (250 mL) was added 5% palladium on charcoal (1.5 g). The mixture was stirred under hydrogen gas for about 36 h, and then filtered through Celite. The filtrate was concentrated to yield a red oil (17 g).

reactant | 1-Nitro-4-[3-(trifluoromethyl)phenoxy]benzene | 19 g | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F | C13H8F3NO3
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | 4-[3-(trifluoromethyl)phenoxy]benzenamine | 17 g | FC(C=1C=C(OC2=CC=C(C=C2)N)C=CC1)(F)F | C13H10F3NO
